// Generated for: spectre
// Generated on: Jan 17 14:41:18 2020
// Design library name: lab1_bb
// Design cell name: inverter_tb
// Design view name: schematic
simulator lang=spectre
global 0 vdda!
parameters Vin=1
include "/usr/local/cad_common/local/setups/GPDK/gpdk045_v_6_0/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: lab1_bb
// Cell name: inverter
// View name: schematic
subckt inverter _net1 _net0
    NM0 (_net0 _net1 0 0) g45n1svt w=(120n) l=45n nf=1 as=16.8f ad=16.8f \
        ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n sd=160n \
        sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
    PM0 (_net0 _net1 vdda! vdda!) g45p1svt w=(120n) l=45n nf=1 as=16.8f \
        ad=16.8f ps=520n pd=520n nrd=1.16667 nrs=1.16667 sa=140n sb=140n \
        sd=160n sca=226.00151 scb=0.11734 scc=0.02767 m=(1)
ends inverter
// End of subcircuit definition.

// Library name: lab1_bb
// Cell name: inverter_tb
// View name: schematic
V0 (_net0 0) vsource dc=Vin type=pulse val0=0 val1=1 period=20n rise=10p \
        fall=10p width=10n
I4 (_net0 out\-put) inverter
V1 (vdda! 0) vsource dc=1 type=dc
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dc dc param=Vin start=0 stop=1 step=10m write="spectre.dc" oppoint=rawfile \
    maxiters=150 maxsteps=10000 annotate=status 
tran tran stop=100n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
